US06998497B2
Calcium Bis-triflimide
1.0 g of calcium(II) carbonate was suspended in 50 mL of water, to which freshly prepared HNTf2 (5.6 g) was added and stirred at room temperature for 24 hours. The reaction mixture was filtered and the filtrate was concentrated on a rotary evaporator and dried under vacuum (1 mmHg) for 4 hours at 150° C. The unpurified calcium bis-triflimide was found to display poor catalytic activity in Friedel-Crafts reactions.

reactant | calcium(II) carbonate | 1.0 g | C([O-])([O-])=O.[Ca+2]
reactant | HNTf2 | 5.6 g | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2HF6NO4S2
solvent | water | 50 mL | O | H2O
product | Calcium Bis-triflimide | N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Ca] | InChI=1S/2C2HF6NO4S2.Ca/c2*3-1(4,5)14(10,11)9-15(12,13)2(6,7)8;/h2*9H;
